Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Right hip pain and difficulty ambulating.
 
Major Surgical or Invasive Procedure:
Right hip hemiarthroplasty with cemented components, #6 ___ 
stem, +___ mm head.

 
History of Present Illness:
___ woman with history of metastatic bladder CA and 
endometrial CA with mets to spine and skull as well as past DVTs 
and h/o CVA (___) now presenting after a likely fall with hip 
fracture (confirmed) and new onset difficulty walking. Presented 
to OSH (___) with a 10 day history of weakness, inability 
to walk, worked up with plain films and CT scan planned but not 
completed due to inability to tolerate PO and N/V. The patient 
was transferred to ___ for further workup/MRI and evaluation 
of metastatic disease.
.  
In the ED (18:46), initial vs were: T 96.8 P 95 BP 120/77 R 16 
O2 sat 99 RA pain ___. Patient was found to have BG of 36 and 
was given OJ & crackers, 2L NS and started on Cefipime 2g IV 
___ @ 23:07). Blood Cx x2, U/A, Foley placed, full body x-ray, 
spinal MRI, head CT. Ortho consulted and R hip fracture was 
confirmed.  

 
Past Medical History:
Past Medical History:  
1. Transitional Cell Bladder CA s/p chemoradiation (___) 
and chemo (carboplatin and gemcitabine, last tx ___ with 
mets to spine, skull  
2. Endometrial CA s/p TAH/BSO for endometrial CA (___)  
3. DVTs w/IVC filter  
4. Stroke (___)  
5. Hypertension

 
Social History:
___
Family History:
Mother with HTN
 
Physical Exam:
Physical Exam:  
Vitals: 96.8 95 120/77 16 99  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, PERRL, EOMI 
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, ___ systolic 
murmur, no rubs or gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 1+ pulses, no cyanosis or edema.  
trace edema right ankle
Neuro: a/ox3, CNs ___ intact, slight left pronator drift
Motor: Normal bulk; no asterixis or myoclonus. 
   Delt Bi  Tri  WE FE Grip IO  
   C5   C6  C7   C6 C7 C8/T1 T1  
L  5    5   5    ___     5     
R  5    5   5    ___     5  
  
  IP Quad ___ PF  
  L2 L3   L4-S1 L4 L5  S1/S2  
L  4+--------------------    
R  0------------ 5- ----- 

 
Pertinent Results:
HEMATOLOGY
___ 08:30PM BLOOD WBC-1.3* RBC-2.94* Hgb-8.8* Hct-25.9* 
MCV-88 MCH-30.0 MCHC-34.1 RDW-15.9* Plt ___
___ 08:30PM BLOOD Neuts-33* Bands-21* ___ Monos-21* 
Eos-0 Baso-0 ___ Metas-3* Myelos-0 Other-3*
.
___ 07:50AM BLOOD WBC-8.4 RBC-2.95* Hgb-8.5* Hct-26.4* 
MCV-90 MCH-28.9 MCHC-32.3 RDW-16.5* Plt ___
___ 07:50AM BLOOD Neuts-73* Bands-2 Lymphs-11* Monos-7 
Eos-0 Baso-0 ___ Metas-6* Myelos-1*
.
___ 09:25AM BLOOD calTIBC-186* VitB12-1257* Folate-13.1 
Ferritn-1156* TRF-143*
.
___ 07:50AM BLOOD ___
.
.
CHEMISTRY
___ 08:30PM BLOOD Glucose-36* UreaN-15 Creat-0.5 Na-140 
K-3.6 Cl-107 HCO3-22 AnGap-15
___ 05:44PM BLOOD Calcium-8.0* Phos-1.6* Mg-2.0
___ 07:50AM BLOOD Glucose-112* UreaN-16 Creat-0.8 Na-134 
K-4.0 Cl-104 HCO3-24 AnGap-10
___ 07:50AM BLOOD Calcium-7.4* Phos-2.6* Mg-2.4
.
___ 09:19PM BLOOD Lactate-1.0
.
ECHO ___
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) are moderately thickened. There is 
mild aortic valve stenosis (valve area 1.2-1.9cm2). Trace aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. The mitral valve leaflets are elongated. Trivial 
mitral regurgitation is seen. There is mild pulmonary artery 
systolic hypertension. There is no pericardial effusion. 
.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved global and regional biventricular systolic function. 
Mild calcific aortic stenosis. Mild pulmonary hypertension.   
.
MRI SPINE ___
IMPRESSION: 
1. Extensive osseous metastatic disease, as detailed above, 
involving the 
entire spine, sacrum and bilateral iliac bones. The process 
involving the 
right hemisacrum has a soft tissue component extending into the 
S1 and S2 
neural foramina, encasing the exiting nerve roots; this may 
relate to the 
patient's presenting complaints, and should be closely 
correlated, 
clinically. 
2. No evidence for spinal canal stenosis or cord compression. 
3. No abnormal signal within the spinal cord, no other epidural 
and no 
intradural soft tissue mass, and no abnormal enhancement of the 
cord, 
leptomeninges, or dura. 
4. No evidence for pathologic fracture. 
  

 
Brief Hospital Course:
This is a ___ yo female with bladder ca and endometrial ca s/p 
chemo and xrt in ___ and subsequent chemo ___ p/w new onset 
weakness, R hip pain and unable to care for self, found to be 
paraplegic at OSH, numerous lesions on xray, admitted with R hip 
fx and concern for cord compression. R hip fx confirmed, no 
evidence yet of cord compression.
.
1. Hip fracture: She was evaluated for hip fracture and for 
possible spinal lesions. She was ruled out for spinal pathology 
but was brought to the OR by orthopedics, who followed her 
during this admission, for an operation on ___ which 
resulted in a "right hip hemiarthroplasty with cemented 
components, #6 ___ stem, +___ mm head" per 
operative note. The pathology report from the tissue taken, with 
concern for metastasis and a pathologic fracture, was pending at 
the time of discharge. Her pain was well controlled at rest but 
patient required some premedication for physical therapy 
sessions, with which she cooperated. She was given lovenox for a 
bridge to warfarin (see below), with warfarin for her DVT 
history. She had a POD1 post-operative fever of 100.4 once, on 
the ___ but cultures remain negative at time of 
discharge and this resolved. She should be on precautions as 
described below and then advanced to further activity with 
physical therapy. She received Zometa in ___, so 
additional bisphosphonate was deferred; the potential benefits 
of further bisphosponate.
.
2. Bladder cancer and endometrial cancer. She is being followed 
as an outpatient and received chemotherapy prior to her 
admission here; active management of her metastatic disease was 
not undertaken during this hospitalization. She had been 
receiving adjuvant carboplatin and gemcitabine with reported 
last dose in ___ however, she was neutropenic for part of her 
admission here. She was a poor historian of her own condition 
and we did not obtain oncology notes for any time after ___. 
She had apparent metastatic disease to entire spine, sacrum and 
bilateral iliac bones as per MR on ___ (summary above). 
There was no evidence of cord compression or mass within spinal 
canal. Presumably this is mostly bladder cancer but the bone 
lesions were not biopsied; she has known history of both, and 
endometrial cancer had been metastatic to adnexa pre TAH/BSO; so 
may be two separate processes. 
.
3. Neutropenia. She received neupogen x1 on ___ for a total 
WBC of 1.0 with 10% neutrophils at ___, 
admission labs here as above. The source of this was not clear; 
oncology records received did not suggest recent chemotherapy, 
and prior drug effects may be possible; source was not clarified 
during this admission. 
.
4. History of DVT. She has had DVTs in the past and patient was 
admitted on therapeutic warfarin. She was reversed with vitamin 
K prior to surgery on the ___, and then bridged with 
lovenox.  Now on lovenox bridge to warfarin, with target INR 
2.0-3.0.
.
5. Hematuria: She had gross hematuria on the day of discharge. 
This was in the setting of a Foley catheter removal several 
hours before and known tumor at the bladder neck which has never 
been surgically removed, as well as increasing anticoagulation 
with lovenox and warfarin. This should be followed and if does 
not resolve, would recommend further oncologic evaluation for 
palliation if appropriate.
.

 
Medications on Admission:
1. Furosemide 20mg daily
2. Enalapril 10mg PO daily
3. Coumadin 2.5mg PO daily
4. ASA 81mg daily
5. B12 ?dose daily - prn
6. Oxybutynin 15mg patch 2/week (vs PO daily)
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. Enalapril Maleate 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily). Tablet(s) 
3. Cyanocobalamin 100 mcg Tablet Sig: 0.5 Tablet PO DAILY 
(Daily).  
4. Enoxaparin 30 mg/0.3 mL Syringe Sig: One (1) mg/kg 
Subcutaneous twice a day: Discontinue Enoxaparin once bridged to 
Warfarin.  Goal INR=2.0-3.0.  
5. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours): Continue to give as pain control is needed.  
7. Oxycodone 10 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO Q12H (every 12 hours) as 
needed for pain: Discontinue on discharge from rehab facility or 
when pain control is not needed. .  
8. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day). Capsule(s) 
9. Senna  Oral

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
- Right femoral neck displaced fracture.
- Neutropenia secondary to chemotherapy
- Mild aortic valve stenosis ___ 1.2-1.9cm2)

Secondary:
- Metastatic (spine) transitional cell bladder cancer, status 
post ___ -> ___
- Stage IIIA endometrial cancer status post TAH/BSO
- Left Middle Cerebral Artery stroke with expressive aphasia
- Deep vein thrombosis x 2 status post Inferior vena cava filter
- Hypertension

 
Discharge Condition:
Stable.  Pain controlled.  Taking POs

 
Discharge Instructions:
You were admitted with hip pain and difficulty walking.  The MRI 
of your spine showed no abnormalities or spinal cord damage.  
You were found to have a right hip fracture that was repaired on 
the ___.  Your surgery recovery was uneventful.
 
Followup Instructions:
___